US05028738
A 3N aqueous solution (1.0 ml) of sodium hydroxide and 5.0 ml of tetrahydrofuran were added to 0.57 g (2.4 mmoles) of sodium 2-oxo-3-(p-chlorophenyl)butanoate, and the mixture was stirred until a completely uniform solution formed. Then, 0.20 ml (2.7 mmoles) of propargyl bromide and 24 ml of triethylbenzylammonium chloride were added, and the mixture reacted at room temperature for 12 hours. The reaction mixture was acidified with 1N hydrochloric acid and extracted with ether. The ether layer was dried over magnesium sulfate. The drying reagent was separated by filtration, and the solvent was evaporated. The resulting oily product was purified to give the desired 2-oxo-3-(p-chlorophenyl)-hexynoic acid in a yield of 66 %.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium 2-oxo-3-(p-chlorophenyl)butanoate | 2.4 mmoles, 0.57 g | O=C(C(=O)[O-])C(C)C1=CC=C(C=C1)Cl.[Na+]
reactant | propargyl bromide | 2.7 mmoles, 0.20 ml | C(C#C)Br | C3H3Br
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | triethylbenzylammonium chloride | 24 ml | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 2-oxo-3-(p-chlorophenyl)-hexynoic acid | yield of 66 % | O=C(C(=O)O)C(C#CC)C1=CC=C(C=C1)Cl | C12H9ClO3
